US07105707B2
The procedure was identical to Example 2, with the exception that 3,3-dimethyl-1-butyne (0.488 ml; 0.329 g; 4.00 mmol) was used as a substrate instead of phenylacetylene and 3-aminobenzonitrile (0.236 g; 2.00 mmol) was used as a substrate instead of benzonitrile. GC analysis of the organic phase of the hydrolyzed reaction sample after 45 h at 65° C. showed the presence of 0.96 mmol (48% yield) of 1-amino-3-(3,3-dimethyl-1-butynyl)benzene and 1.00 mmol of 3-aminobenzonitrile remaining in the reaction mixture.

reactant | 3,3-dimethyl-1-butyne | 4.00 mmol, 0.488 ml, 0.329 g | CC(C#C)(C)C | C6H10
reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | 3-aminobenzonitrile | 2.00 mmol, 0.236 g | NC=1C=C(C#N)C=CC1 | C7H6N2
reactant | 3-aminobenzonitrile | 1.00 mmol | NC=1C=C(C#N)C=CC1 | C7H6N2
solvent | benzonitrile | C(C1=CC=CC=C1)#N | C7H5N
product | 1-amino-3-(3,3-dimethyl-1-butynyl)benzene | 0.96 mmol, 48% yield | NC1=CC(=CC=C1)C#CC(C)(C)C | C12H15N
